data/oMe_Silver.jsonl
{"reaction_id": "NR-201_1-C(C)(C)C_2-Cl","level": "medium","name": "Nazarov Cyclization Reaction","reactants_smiles": ["C(C(C(C)(C)C))=CC(=O)C=C(C(Cl))","CS(=O)(=O)O"],"products_smiles": ["C(Cl)C1=CC(=O)CC1(C(C)(C)C)"],"conditions": "H+ OSO2Me","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C(C)(C)C))=CC(=[OH+])C=CC(Cl)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases electrophilicity and stabilizes the developing positive charge via resonance, facilitating oxyallyl cation formation under strong acid."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C1(=CC(C([CH+]1)C(C(C)(C)C))C(Cl))O","step_weight": 0,"rationale": "The oxyallyl cation undergoes a conrotatory 4π-electrocyclization, favored by orbital symmetry and leading to a cyclopentenyl cation stabilized by adjacent substituents."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(=CC(C(=C1)C(Cl))C(C(C)(C)C))O","step_weight": 0,"rationale": "Deprotonation relieves positive charge on the cyclopentenyl cation, driven by formation of a more conjugated alkene system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cl)C1=CC(=O)CC1(C(C(C)(C)C))","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the enol to the more stable conjugated ketone, favored by carbonyl bond strength and extended π-conjugation."}],"description": "Under strong acid conditions, the divinyl ketone is protonated to activate the carbonyl toward cation formation. This enables oxyallyl cation generation, which undergoes a Nazarov 4π-electrocyclization to form a cyclopentenyl cation. Subsequent deprotonation and tautomerization yield the thermodynamically stable cyclopentenone product."}
{"reaction_id": "NR-228_1-C_2-C#N_3-C(=O)C_4-c1ccc(OC)cc1_5-C(C)(C)C","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(C)=C(C#N)(C(=O)C)","c1ccc(OC)cc1C(=O)OC(C)(C)C"],"products_smiles": ["C(C)1OC1(C#N)C(=O)C"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C)1OC1(C#N)C(=O)C","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
